US07402585B2
N-(3-fluorophenyl)-3-nitro-1H-pyrazole-5-carboxamide (100 mg, 0.4 mmol) in ethyl acetate:ethanol (10:4) was stirred with platinum dioxide (10 mg) under an atmosphere of hydrogen (70 psi) for 3 hours. The catalyst was filtered off and the solvent was evaporated in vacuo to yield 3-amino-N-(3-fluorophenyl)-1H-pyrazole-5-carboxamide (65 mg, 73% yield):

reactant | N-(3-fluorophenyl)-3-nitro-1H-pyrazole-5-carboxamide | 0.4 mmol, 100 mg | FC=1C=C(C=CC1)NC(=O)C1=CC(=NN1)[N+](=O)[O-] | C10H7FN4O3
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
catalyst | platinum dioxide | 10 mg | [Pt](=O)=O
product | 3-amino-N-(3-fluorophenyl)-1H-pyrazole-5-carboxamide | 65 mg, 73% yield | NC1=NNC(=C1)C(=O)NC1=CC(=CC=C1)F | C10H9FN4O
